US08487093B2
Step 1: tert-butyl-6-({[(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)-3,4-dihydroisoquinoline-2(1H)-carboxylate
To a solution of (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (53.3 mg, 0.193 mmol) in dry dichloromethane (2 mL) was added triethylamine (0.067 mL, 0.482 mmol), 2-chloro-1-methylpyridinium iodide (58.7 mg, 0.230 mmol), and 6-amino-2-N-BOC-1,2,3,4-tetrahydro-isoquinoline (54.8 mg, 0.221 mmol) sequentially at room temperature under nitrogen. The reaction mixture was then heated to 50° C. for 45 minutes then the reaction product was concentrated in vacuo. Attempts to dissolve the reaction product in eluant (2:1:1 CH3CN/DMSO/water) for HPLC were unsuccessful, so it was partitioned between aqueous layer and dichloromethane. The organic layer was collected, dried over sodium sulfate, concentrated in vacuo and set aside for separate purification. The aqueous layer was also collected and purified by HPLC (30×100 mm Waters Sunfire column; 5 micron; 35 mL/min.; 210 nM; 15% to 100% CH3CN+0.05% TFA/water+0.05% TFA over 15 minutes; the title compound eluted at 80% CH3CN+0.05% TFA/water+0.05% TFA). Fractions containing the title compound were lyophilized overnight to afford the title compound as a white sticky solid. The organic layer from partitioning the crude product was purified by preparative TLC (1000 micron silica gel plate eluted with 50% ethyl acetate/hexane) to afford the title compound. Both batches of the title compound were combined and used without further purification in the next step.

reactant | (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 0.193 mmol, 53.3 mg | C1(=CC=CC=C1)CON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | triethylamine | 0.482 mmol, 0.067 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 0.230 mmol, 58.7 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | 6-amino-2-N-BOC-1,2,3,4-tetrahydro-isoquinoline | 0.221 mmol, 54.8 mg | NC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H20N2O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | tert-butyl-6-({[(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)-3,4-dihydroisoquinoline-2(1H)-carboxylate | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)NC(=O)[C@H]1N2C(N([C@H](CC1)C2)OCC2=CC=CC=C2)=O | C28H34N4O5
